US05051518
Ethyl 5-(4-chlorophenyl)-1-(4-methoxyphenyl)pyrazole-3-carboxylate (1)
Ethyl 4-(4-chlorophenyl)-2,4-dioxobutanoate sodium salt (10.0 g, 36.1 mM), synthesized from 4-chloroacetophenone and diethyloxalate employing lithiumdiisopropylamide as base, and 4-methoxyphenylhydrazine hydrochloride (6.31 g, 36.1 mM) in cold absolute EtOH (360 ml) were stirred at 0° for 4hr., at rt for 18 hr and then at reflux for 5 hr. The resulting solution was evaporated in vacuo, H2O (100 ml) was added and the aqueous phase extracted with Et2O (3×100 ml). The combined ether layerwas washed (brine), dried (Na2SO4) and concentrated in vacuo to give a crude solid which by NMR was a 5:1 mixture of the title compound tothe corresponding 1,3-diphenyl pyrazole. Recrystallization from EtOAc:hexane (2×) afforded pure 1 (7.93 g, 61%) as a white solid, mp=107°-108° C., MS, (DCI) m/e 357 (M+1).

reactant | Ethyl 4-(4-chlorophenyl)-2,4-dioxobutanoate sodium salt | 36.1 mM, 10.0 g | [Na].ClC1=CC=C(C=C1)C(CC(C(=O)OCC)=O)=O
reactant | 4-chloroacetophenone | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | diethyloxalate | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | lithiumdiisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-methoxyphenylhydrazine hydrochloride | 36.1 mM, 6.31 g | Cl.COC1=CC=C(C=C1)NN
reactant | 1,3-diphenyl pyrazole | C1(=CC=CC=C1)N1N=C(C=C1)C1=CC=CC=C1 | C15H12N2
solvent | EtOH | 360 ml | CCO | C2H6O
product | Ethyl 5-(4-chlorophenyl)-1-(4-methoxyphenyl)pyrazole-3-carboxylate | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)OCC | C19H17ClN2O3
